US07968746B2
Following the amide coupling procedure described in protocol A, 499 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.00 mmol), and 361 mg CDI (2.23 mmol) were dissolved in THF. Glycine methyl ester hydrochloride (263.7 mg, 2.1 mmol) dissolved into 10 mL THF, 5 mL CH2Cl2, 100 μL Et3N and 2.5 mL MeOH was added over 1 h. Workup as described in protocol A, produced 471.3 mg of methyl 2-(6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamido)acetate

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.00 mmol, 499 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.23 mmol, 361 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | Glycine methyl ester hydrochloride | 2.1 mmol, 263.7 mg | Cl.COC(CN)=O
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2.5 mL | CO | CH4O
solvent | Et3N | 100 μL | CCN(CC)CC | C6H15N
product | methyl 2-(6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamido)acetate | 471.3 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCC(=O)OC)C)C | C17H23NO5
